US08981085B2
(R)-tert-Butyl piperidin-3-ylcarbamate (192 mg, 0.96 mmol) was added to N-(5-chloro-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)cyclopentanecarboxamide (90 mg, 0.32 mmol) in s-BuOH (2 mL), and the reaction mixture was heated to 130° C. for 30 hours in a sealed tube. After cooling down, the reaction was concentrated to dryness, dissolved in AcOEt (10 mL) and washed with 10% aqueous citric acid and brine. The aqueous phase was diluted with hexanes (10 mL) and passed through a short plug of silica gel. The silica gel was rinsed with AcOEt/hexanes (1/1, 100 mL), and the combined organic phases were concentrated in vacuo. The resulting solid was crystallized from AcOEt to yield (R)-tert-butyl 1-(5-chloro-3-(cyclopentanecarboxamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate (85 mg, 58% yield) as a solid.

reactant | (R)-tert-Butyl piperidin-3-ylcarbamate | 0.96 mmol, 192 mg | N1C[C@@H](CCC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | N-(5-chloro-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)cyclopentanecarboxamide | 0.32 mmol, 90 mg | ClC=1C(=C2C(=NC1)NC=C2NC(=O)C2CCCC2)F | C13H13ClFN3O
solvent | s-BuOH | 2 mL | C(C)(CC)O | C4H10O
product | (R)-tert-butyl 1-(5-chloro-3-(cyclopentanecarboxamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate | 85 mg, 58% yield | ClC=1C(=C2C(=NC1)NC=C2NC(=O)C2CCCC2)N2C[C@@H](CCC2)NC(OC(C)(C)C)=O | C23H32ClN5O3
